US04870078
4-(3-Sulfopropyl)-1-(p-acetylphenyl)piperazine, inner salt (Compound 4)
A 4.1 g quantity (20 mmols) of 1-(p-acetylphenyl)piperazine is dissolved in 40 ml of acetone, and a solution of 2.44 g (20 mmols) of 1,3-propanesultone in 10 ml of acetone is added dropwise thereto at room temperature with stirring. After reaction at room temperature with stirring overnight, the yellow crystals precipitated are collected by filtration and then recrystallized from water-acetone.

reactant | 1-(p-acetylphenyl)piperazine | 20 mmols | C(C)(=O)C1=CC=C(C=C1)N1CCNCC1 | C12H16N2O
reactant | 1,3-propanesultone | 20 mmols, 2.44 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-(3-Sulfopropyl)-1-(p-acetylphenyl)piperazine | S(=O)(=O)(O)CCCN1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C15H22N2O4S
